Name:  ___.             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
Tricor / Bactrim
 
Attending: ___.
 
Chief Complaint:
PROSTATE CANCER
 
Major Surgical or Invasive Procedure:
1. Robotic radical prostatectomy.
2. Left partial nerve-sparing.
3. Right full nerve-sparing.

 
History of Present Illness:
___ w/ prostate cancer
 
Past Medical History:
ABNORMAL ANAL PAP SMEAR                                         
ABNORMAL LIVER FUNCTION TESTS                                   
ALLERGIC RHINITIS                                               
CA-MRSA                                                         
GENITAL WARTS                                                   
GOUT                                                            
HYPERTRIGLYCERIDEMIA                                            
IRRITABLE BOWEL SYNDROME                                        
MOOD DISORDER                                                   
SLEEP APNEA                                                     
STROKE                                                          
SEIZURE DISORDER                                                
MIGRAINES                                                       
HEADACHE                                                        
HEMORRHOIDS  
INGUINAL HERNIA                                       ___      
open left inguinal hernia repair with mesh, ___       
 
 
Social History:
Marital status:     Married                                     
Children:           No                                          
Lives with:         ___ Other: male partner       
Lives in:           House                                       
Work: ___
Multiple partners:  ___                                      
___ activity:    Present                                     
Sexual orientation: Male                                        
Contraception:      N/A                                         
Tobacco use:        Never smoker                                
Alcohol use:        Present                                     
Alcohol use         social                                      
comments:                                                       
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):                                                         
Depression:         Patient already being treated for depression
Exercise:           Activities: walks 45 min a day              
Diet:               doing better watching portions              
Seat belt/vehicle   Always             
 
Family History:
Nephrolithiasis - no 
Renal Cell CA   - no
Prostate CA     - yes, as above=
Bladder CA      - no   
breast ca - aunt

 
Physical ___, NAD, AVSS
Abdomen soft, non-distended, appropriately tender along incision 
sites
Incisions C/D/I
___ drain has been removed. 
Foley in place, secured to medial thigh. 
Bilateral lower extremities w/out edema, pitting or pain to deep 
palpation of calves

 
Pertinent Results:
___ 06:55AM BLOOD WBC-7.0 RBC-4.13* Hgb-12.0* Hct-35.1* 
MCV-85 MCH-29.1 MCHC-34.2 RDW-12.7 RDWSD-38.5 Plt ___

___ 06:55AM BLOOD Glucose-102* UreaN-10 Creat-0.9 Na-138 
K-3.7 Cl-102 HCO___ AnGap-13
 
Brief Hospital Course:
Mr. ___ was admitted to the Urology Service after 
undergoing robotic assisted laparoscopic prostatectomy. No 
concerning intra-operative events occurred; please see dictated 
operative note for full details.  Mr. ___ received 
___ antibiotic prophylaxis.  At the end of the 
procedure the patient was extubated and transported to the PACU 
for further recovery before being transferred to the floor.  He 
was transferred from the PACU in stable condition. On POD0, pain 
was well controlled on PCA, hydrated with intravenous fluids for 
urine output >30cc/hour, provided with pneumoboots and incentive 
spirometry for prophylaxis, and he ambulated once. On POD1, the 
patient was restarted on home medications, basic metabolic panel 
and complete blood count were checked, pain control was 
transitioned from PCA to oral analgesics, diet was advanced to a 
clears/toast and crackers diet for breakfast and lunch.  Diet 
was advanced to regular after lunch and with further ambulation, 
the JP drain was removed.  Foley catheter care and leg bag 
teaching was provided by nursing. The remainder of the hospital 
course was unremarkable. The patient was discharged in stable 
condition, eating well, ambulating independently, and with pain 
control on oral analgesics. On exam, incision was clean, dry, 
and intact, with no evidence of hematoma collection or 
infection.Mr. ___ was given explicit instructions to 
follow-up in one week for post-operative evaluation and trial of 
voiding.

 
Medications on Admission:
The patient's OMR Medication list (as of ___: 
   alprazolam 
alprazolam 0.5 mg tablet 
___ tablet(s) by mouth daily TAKE ___ TABLETS BY MOUTH AS 
DIRECTED AS NEEDED FOR ANXIETY OR INSOMNIA  
   clonazepam 
clonazepam 0.5 mg disintegrating tablet 
0.5 (One half) Tablet(s) by mouth three times a day prn  
   colchicine [Colcrys] 
Colcrys 0.6 mg tablet 
1 tablet(s) by mouth twice a day as needed 
 (Prescribed by Other Provider)  
   desvenlafaxine succinate [Pristiq] 
Pristiq 50 mg tablet,extended release 
0.5 (One half) tablet(s) by mouth once a day 
Entered by MA/Other Staff  
   dicyclomine [Bentyl] 
Bentyl 10 mg capsule 
one Capsule(s) by mouth prn  
   fluocinonide 
fluocinonide 0.05 % topical cream 
as needed once a day as needed 
Entered by MA/Other Staff  
   sumatriptan succinate 
sumatriptan 100 mg tablet 
1 tablet(s) by mouth daily prn headache start with 0.5 tablet 
and if no relief, take additional 0.5 tablet.  
   trazodone 
trazodone 50 mg tablet 
1.5 tablet(s) by mouth daily 
 (Prescribed by Other Provider)Entered by MA/Other Staff  
   fluticasone [Flonase Allergy Relief] 
Flonase Allergy Relief 50 mcg/actuation nasal spray,suspension 
2 sprays each nostril once a day 
 (OTC)  
 
a  This medication list has been confirmed with the patient  

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Bacitracin Ointment 1 Appl TP TID  
3.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 3 Days 
Start on day before scheduled void trial/foley removoal 
RX *ciprofloxacin HCl 500 mg one tablet(s) by mouth twice a day 
Disp #*6 Tablet Refills:*0 
4.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg one capsule(s) by mouth 
twice a day Disp #*60 Capsule Refills:*0 
5.  Ibuprofen 600 mg PO Q8H:PRN Pain - Moderate 
RX *ibuprofen 600 mg one tablet(s) by mouth q8hrs Disp #*30 
Tablet Refills:*0 
6.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg one tablet(s) by mouth q4hrs Disp #*30 Tablet 
Refills:*0 
7.  ALPRAZolam 0.5 mg PO TID:PRN anxiety  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Prostate cancer.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please also reference the additional handout provided by your 
urologist with instructions and information about your surgery 
and post-operative plan of care.

-Please also reference the instructions provided by nursing on 
Foley catheter care, hygiene and waste elimination. 

-ALWAYS follow-up with your referring provider ___ your PCP 
to discuss and review your post-operative course and 
medications.  Any NEW medications should also be reviewed with 
your pharmacist.

-Resume your pre-admission medications except as noted AND you 
note that you NO longer need to take medications that shrink 
your prostate (Hytrin, Avodart, Flomax, etc.)

-You may take ibuprofen and the prescribed narcotic together for 
pain control. FIRST, use Tylenol and Ibuprofen. Replace Tylenol 
with prescribed narcotic (examples: Vicodin, Percocet) for break 
through pain that is >4 on the pain scale.

-The maximum dose of Tylenol (ACETAMINOPHEN) is 4 grams (from 
ALL sources) PER DAY.

-The prescribed pain medication may also contain 
Tylenol/acetaminophen so this needs to be considered when 
monitoring your daily dose and maximum.

-Ibuprofen should always be taken with food. If you develop 
stomach pain or note black stool, stop the Ibuprofen.  Ibuprofen 
works best when taken “around the clock.”

-For your safety and the safety of others; PLEASE DO NOT drive, 
operate dangerous machinery, or consume alcohol while taking 
narcotic pain medications. 

-Do NOT drive while Foley catheter is in place.

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener--it is NOT a laxative.

-You may shower 2 days after surgery, but do not tub bathe, 
swim, soak, or scrub incision for 2 weeks

-If you had a drain removed from your abdomen, bandage strips 
called “steristrips” have been applied to close the wound. Allow 
these bandage strips to fall off on their own ___ days).  
PLEASE REMOVE any remaining dressings w/ gauze within 2 days of 
discharge.  You may get the steristrips wet.

-No heavy lifting for 4 weeks (no more than 10 pounds). Light 
household chores are generally “ok”.  Fold laundry but ___ 
lift it. Wash/Dry dishes. Do not Vacuum. 

-___ medical attention for fevers (temp>101.5), worsening pain, 
drainage or excessive
bleeding from incision, chest pain or shortness of breath.

-Your Foley should be secured to the catheter secure on your 
thigh at ALL times until your follow up with the surgeon.

-Follow up in 1 week for wound check and Foley removal. DO NOT 
allow anyone that is outside of the urology team remove your 
Foley for any reason.

-Wear Large Foley bag for majority of time; the leg bag is only 
for short-term when leaving the house, etc.

-Take prescribed antibiotic for Foley catheter removal as 
directed

-resume regular home diet and remember to drink plenty of fluids 
to keep hydrated and to minimize risk of constipation. For the 
first few days at home, you should eat SMALL PORTIONS.  Avoid 
high fat, bulky or fried foods. 

-___ medical attention for fevers (temp>101.5), worsening pain, 
drainage or excessive bleeding from incision, chest pain or 
shortness of breath.
 
Followup Instructions:
___